US07763731B2
2-(4-Methyl-2-nitro-phenylsulfanyl)-pyridine
The title compound was prepared from the reaction of trifluoro-methanesulfonic acid 4-methyl-2-nitro-phenyl ester (3.50 g, 12.27 mmol) reacting with pyridine-2-thiol (2.046 g, 18.41 mmol), and K2CO3 (2.968 g, 21.48 mmol) in DMF at 100° C. for 16 h the reaction mixture was then cooled to room temperature and diluted with water, extracted with EtOAc Dried over Na2SO4, filtered and concentrated under vacuum giving the title compound (2.52 g, 78%).

reactant | trifluoro-methanesulfonic acid 4-methyl-2-nitro-phenyl ester | 12.27 mmol, 3.50 g | CC1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C8H6F3NO5S
reactant | pyridine-2-thiol | 18.41 mmol, 2.046 g | N1=C(C=CC=C1)S | C5H5NS
reactant | K2CO3 | 21.48 mmol, 2.968 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(4-Methyl-2-nitro-phenylsulfanyl)-pyridine | 2.52 g, 78% | CC1=CC(=C(C=C1)SC1=NC=CC=C1)[N+](=O)[O-] | C12H10N2O2S
